US04956360
2-(3-Aminomethyl-4-methylphenyl)-5,6,7,8-tetrahydro-4H-thiazolo [5,4-b]azepine dihydrochloride
Then, a solution of 2-(3-cyano-4-methylphenyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine (6.12 g) and cobalt chloride hexahydrate (10.8 g) in a mixture of methanol (30 ml) and tetrahydrofuran (20 ml) was ice-cooled, followed by adding a powder of sodium borohydride (8.6 g) gradually, and further stirred for 1 hr. at the same temperature. After acidifying with an aqueous 4N-hydrochloric acid, the reaction mixture was extracted with diethyl ether, the aqueous layer was alkalified with an aqueous ammonia and extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography on silica gel, and neutralized with hydrogen chloride to give the title compound (yield 22.7%). m.p. 245°-248° (recrystallized from methanol).

reactant | 2-(3-cyano-4-methylphenyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine | 6.12 g | C(#N)C=1C=C(C=CC1C)C=1SC=2NCCCCC2N1 | C15H15N3S
reactant | sodium borohydride | 8.6 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | cobalt chloride hexahydrate | 10.8 g | O.O.O.O.O.O.[Co](Cl)Cl
product | 2-(3-Aminomethyl-4-methylphenyl)-5,6,7,8-tetrahydro-4H-thiazolo [5,4-b]azepine dihydrochloride | yield 22.7% | Cl.Cl.NCC=1C=C(C=CC1C)C=1SC=2NCCCCC2N1 | InChI=1S/C15H19N3S.2ClH/c1-10-5-6-11(8-12(10)9-16)14-18-13-4-2-3-7-17-15(13)19-14;;/h5-6,8,17H,2-4,7,9,16H2,1H3;2*1H
